Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin / Tegaderm 
/ diazepam
 
Attending: ___
 
Chief Complaint:
Numbness, tingling
 
Major Surgical or Invasive Procedure:
Temporary pheresis line placement ___
Plasma exchange x5 (___)

 
History of Present Illness:
Ms. ___ is a ___, right-handed woman with a history of 
diabetes followed by Dr. ___ severe idiopathic large 
fiber polyneuropathy with predominantly sensory features and 
some autoimmune inflammatory features. 

She initially presented to ___ in ___ for evaluation of many 
years of symptoms, including lower extremity weakness which 
progressed proximally, decreased sensation, and paresthesias.  
She had extensive workup including sural nerve biopsy which 
showed severe loss of all fiber types and NCS showed severe 
sensory axonal polyneuropathy without myopathy. Labs sent 
including anti-Ro, anti-La, ___, HIV, Lyme, anti-IF 
were all negative and a clear etiology of her symptoms were not 
identified. Weakness has been felt to be reflective of sensory 
deafferentation. There have been numerous prior therapeutic
attempts including IVIG, which she did not respond to.  She has 
been more recently getting periodic plasmapheresis and this has 
helped her significantly.

Her last plasmapheresis was performed in ___. Course was 
complicated by partial SBO, managed conservatively with surgical 

consultation with NG tube to suction. The SBO resolved. She 
finished the 5 sessions of PLEX without event. Notably, she also 
has a history of coronary vasospasm that has occurred with PLEX. 
This was over ___ years ago. 

She was last seen in ___ at which point she complained 
of decreased sensation, particularly in her hands. She was 
dropping everything from her hands, knocking over objects if she 
doesn't look. In general, her hand dexterity was worse-even when 
she is watching what she is doing. She is now not walking at 
all. She got a new wheelchair. She has 7 aides that work with 
her at ___, but she finds this very overwhelming. She 
is transferring on her own but doesn't transfer by herself into 
or out of bed. She still needs help with dressing, showering, 
and hair. She is still having headaches. Other than the above, 
she noted diminished appetite. She is continuing to follow with 
her GI doctor and maintains some dietary restrictions; 
specifically, a low fiber/low residue diet with a regular bowel 
regimen. Onions and peppers are triggers and she mostly avoids 
vegetables. She does have some shortness of breath over the past 
year. She has occasional chest pain for which she uses 
nitroglycerin; she estimates taking this 3 times in the last 6 
months. She had an episode of dizziness, more described as a 
blurred vision. There were no other concerning neurologic 
symptoms at the time. The vision changes lasted about 1 hour. 

Due complaints of worsening sensory symptoms, she has agreed to 
admission for plasmapheresis. Upon arrival to ___, she 
confirms the history as above. She reports feeling numb "from my 
feet to my lip", and is hopeful that the PLEX will help with her 
numbness. 

Neurologic review of systems as described in the HPI. 

On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Severe idiopathic axonal sensorimotor polyneuropathy with 
symptoms beginning in the late ___ or early ___. Symptoms began 
with weakness and sensory loss in the legs proximally. Symptoms 
have been responsive to plasmapheresis approximately yearly. As 
noted above, she is wheelchair bound.
Vitamin B12 deficiency
History of repeated partial small-bowel obstruction; requires 
low residue diet
Diabetes
Hypertension
GERD
Depression
Diverticulosis
Coronary vasospasm
Status post C-section x 2
Status post hysterectomy for leiomyomata
Left breast lumpectomy
Status post bilateral knee replacements
History of abdominal hematoma due to subcutaneous heparin
 
Social History:
___
Family History:
No family history of neurologic disease other than a brother who 
is ___ with recent symptoms of dementia. Mother and brother had 
diabetes.  Mother had liver, cervical and colon cancer.  Father 
had lung cancer.  Mother had coronary artery disease as well.
 
Physical Exam:
ON ADMISSION
============
Vitals: Temp: 98.1 PO BP: 146/77 HR: 66 RR: 18 O2 sat: 100% RA  
General: Awake, cooperative, NAD, obese.
HEENT: NC/AT, no scleral icterus noted, MMM, edentulous
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. 
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch and pin prick.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
There is prominent pseudoathetosis of the feet, and to a lesser
degree in the hands. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  4    ___   ___  4+  4+   5  5     5     5  
R  5    ___   ___  5-  5    5  5     5     4+   
-Sensory: There is decreased sensation to pinprick in both hands
to about the wrists. Joint position sense is absent in bilateral
toes, and intact only to large amplitude movements in the 
ankles;
also absent in the fingers throughout, but intact at the wrists.
Vibration is only felt at the knees bilaterally, intact in the
fingers. 
-DTRs:
  Bi Tri ___ Pat Ach
L  0  0    0    0   0
R  0  0    0    0   0
Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.
-Gait: wheelchair bound at baseline.

ON DISCHARGE
============
Vitals: Temp: 98.6 PO BP: 148/76 L Lying HR: 67 RR: 18 O2 sat:
95% O2 delivery: Ra 
General: Awake, cooperative, NAD, obese.
HEENT: NC/AT, edentulous
Pulmonary: Breathing comfortably on room air
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
MS: awake, alert, and attentive to interview.
CN: Pupils equal and reactive. Eye movements full with no
nystagmus. Face symmetric, no dysarthria. 
Motor: Bulk, tone, normal. Pseudoathetosis in both legs, and in
arms with eyes closed.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA 
L  4    ___   ___  4    5   4+  5   
R  5    ___   ___  4+   ___
Coord: No dysmetria.
Sensory: There is significant inaccuracy bilaterally when
performing finger to nose with eyes closed.
 
Pertinent Results:
___ 03:09AM BLOOD WBC-6.1 RBC-4.24 Hgb-13.0 Hct-39.5 MCV-93 
MCH-30.7 MCHC-32.9 RDW-15.2 RDWSD-51.9* Plt ___
___ 08:45AM BLOOD ___
___ 06:05AM BLOOD Glucose-107* UreaN-12 Creat-1.0 Na-145 
K-4.6 Cl-110* HCO3-25 AnGap-10
___ 01:00PM BLOOD ALT-11 AST-14 LD(LDH)-256* AlkPhos-100 
TotBili-0.5
___ 06:05AM BLOOD Calcium-8.7 Phos-4.3 Mg-1.8
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a longstanding history of a 
predominantly sensory polyneuropathy with previous work-up 
suggestive of an Autoimmune/inflammatory cause. She has 
previously not responded with IVIG. She was transitioned to 
plasmapheresis and initially experienced significant improvement 
in her symptoms. At her last neurology appointment she reported 
worsening sensory symptoms, since at least ___. She was 
therefore admitted to undergo plasmapheresis. She had a 
temporary pheresis line placed, and subsequently had 5 
treatments of plasmapheresis. There were no complications. She 
was discharged back to her home, with previous services in 
place. 

Transitional issues: 
-follow-up with neurology

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q6H:PRN nausea 
2. Lactulose 15 mL PO DAILY 
3. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
4. Bacitracin Ointment 1 Appl TP BID 
5. Gabapentin 100 mg PO BID 
6. Zinc Oxide Diaper Cream (dimethicone-ZnOx-vit A-D-aloe) ___ 
% topical DAILY:PRN 
7. LORazepam 0.5 mg PO DAILY:PRN anxiety 
8. Bisacodyl ___ID:PRN constipation 
9. Docusate Sodium 100 mg PO BID 
10. Polyethylene Glycol 17 g PO BID 
11. Sodium Polystyrene Sulfonate 30 gm PR ONCE constipation 
12. dextran 70-hypromellose (PF) 0.1-0.3 % ophthalmic (eye) QID 
13. Atorvastatin 10 mg PO QPM 
14. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
15. melatonin 1 mg oral QHS:PRN 
16. nystatin 100,000 unit/gram topical BID 
17. Aspirin 81 mg PO DAILY 
18. TraZODone 25 mg PO QHS:PRN insomnia 
19. Sertraline 75 mg PO DAILY 
20. Multivitamins 1 TAB PO DAILY 
21. BuPROPion (Sustained Release) 200 mg PO QAM 
22. BuPROPion (Sustained Release) 150 mg PO QHS 
23. Cyanocobalamin 1000 mcg IM/SC ONCE 
24. diclofenac sodium 1 % topical TID:PRN 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Bacitracin Ointment 1 Appl TP BID  
5.  Bisacodyl ___ID:PRN constipation  
6.  BuPROPion (Sustained Release) 200 mg PO QAM  
7.  BuPROPion (Sustained Release) 150 mg PO QHS  
8.  Cyanocobalamin 1000 mcg PO DAILY  
9.  dextran 70-hypromellose (PF) 0.1-0.3 % ophthalmic (eye) QID  

10.  diclofenac sodium 1 APPL topical TID:PRN pain  
11.  Docusate Sodium 100 mg PO BID  
12.  Gabapentin 100 mg PO BID  
13.  Lactulose 15 mL PO DAILY  
14.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
15.  melatonin 1 mg oral QHS:PRN  
16.  Multivitamins 1 TAB PO DAILY  
17.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
18.  nystatin 100,000 unit/gram topical BID  
19.  Ondansetron 4 mg PO Q6H:PRN nausea  
20.  Polyethylene Glycol 17 g PO BID  
21.  Sertraline 75 mg PO DAILY  
22.  Sodium Polystyrene Sulfonate 30 gm PR ONCE constipation  
23.  TraZODone 25 mg PO QHS:PRN insomnia  
24.  Zinc Oxide Diaper Cream (dimethicone-ZnOx-vit A-D-aloe) 
___ % topical DAILY:PRN  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Idiopathic large fiber polyneuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.

You were in the hospital to undergo plasma exchange. You had a 
large IV line placed, and underwent 5 treatments of plasma 
exchange. There were no complications.

Once you leave the hospital, you will return home. You should 
follow up with Dr. ___ as listed below.

Best wishes,
Your ___ team
 
Followup Instructions:
___